US07105567B2
By the reaction and treatment in the same manner as in Example 1 using (4-tert-butylphenyl)[(4-dimethylaminophenyl)methyl]amine (0.7 g) and 2,6-diisopropylphenyl isocyanate (0.59 mL) as starting materials, N-(4-tert-butylphenyl)-N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]urea (0.29 g) was obtained. melting point: 154–155° C.

reactant | (4-tert-butylphenyl)[(4-dimethylaminophenyl)methyl]amine | 0.7 g | C(C)(C)(C)C1=CC=C(C=C1)NCC1=CC=C(C=C1)N(C)C | C19H26N2
reactant | 2,6-diisopropylphenyl isocyanate | 0.59 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N-(4-tert-butylphenyl)-N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]urea | 0.29 g | C(C)(C)(C)C1=CC=C(C=C1)N(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)CC1=CC=C(C=C1)N(C)C | C32H43N3O
